US05968985
A mixture of dimethyl 5-(2,5-dichlorothiophen-3-yl)isophthalate (1.70 g) and potassium hydroxide (0.28 g) in methanol (50 ml) was heated to reflux for 48 hours. After being cooled to room temperature, the solvent was removed under reduced pressure. The residue was dissolved in water and was acidified with hydrochloric acid solution. The product was extracted with ethyl acetate and the organic layer was washed with brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by column chromatography on silica gel eluting with a mixture of chloroform and methanol (10:1) to afford 3-methoxycarbonyl-5-(2,5-dichlorothiophen-3-yl)benzoic acid (1.43 g).

reactant | dimethyl 5-(2,5-dichlorothiophen-3-yl)isophthalate | 1.70 g | ClC=1SC(=CC1C=1C=C(C=C(C(=O)OC)C1)C(=O)OC)Cl | C14H10Cl2O4S
reactant | potassium hydroxide | 0.28 g | [OH-].[K+]
solvent | methanol | 50 ml | CO | CH4O
product | 3-methoxycarbonyl-5-(2,5-dichlorothiophen-3-yl)benzoic acid | 1.43 g | COC(=O)C=1C=C(C(=O)O)C=C(C1)C1=C(SC(=C1)Cl)Cl | C13H8Cl2O4S
